US07465836B2
4-(5-Fluorobenzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile (19)
This was prepared as per the procedure in Example 11, from 2-(4-cyanophenyl)-[1,3,2]-dioxaborolane and 1-bromo4-fluoro-2-((methoxymethoxy)methyl)benzene to afford white crystalline product.

reactant | 2-(4-cyanophenyl)-[1,3,2]-dioxaborolane | C(#N)C1=CC=C(C=C1)B1OCCO1 | C9H8BNO2
reactant | 1-bromo4-fluoro-2-((methoxymethoxy)methyl)benzene | BrC1=C(C=C(C=C1)F)COCOC | C9H10BrFO2
product | 4-(5-Fluorobenzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile | FC1=CC2=C(B(OC2)C2=CC=C(C#N)C=C2)C=C1 | C14H9BFNO
